US05556977
Sodium hydride (50% w/w dispersion in mineral oil, 1.32 g) was treated under argon with repeated washes of hexane. The oil-free residue was suspended in dry DMF (10 ml) and, with stirring and cooling (ice-bath), a solution of 3,5-dichloro-4-hydroxyacetophenone (5.13 g) in dry DMF (15 ml) was added dropwise. Stirring was continued for 30 minutes when methyl bromoacetate (3.06 ml) was added dropwise and stirring was continued for a further 18 hours at ambient temperature. The reaction mixture was added to water, the mixture was extracted twice with ethyl acetate, the organic phases dried (MgSO4), filtered and then evaporated. The residue, after recrystallisation from hexane (250 ml), gave methyl 4-acetyl-2,6-dichlorophenoxyacetate, 4.25 g, as white crystals: NMR (d6DMSO) δ8.00 (2H, s), 4.80 (2H, s), 3.73 (3H, s), 2.59 (3H, s).

reactant | Sodium hydride | 1.32 g | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | 3,5-dichloro-4-hydroxyacetophenone | 5.13 g | CC(=O)C1=CC(=C(C(=C1)Cl)O)Cl | C8H6Cl2O2
reactant | methyl bromoacetate | 3.06 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 4-acetyl-2,6-dichlorophenoxyacetate | C(C)(=O)C1=CC(=C(OCC(=O)OC)C(=C1)Cl)Cl | C11H10Cl2O4
